US06812237B2
A solution of 6-iodophthalide (1.0 g, 3.85 mmol), (S)-3-methylphenylalanine.HCl (0.83 g, 3.85 mmol) K2CO3 (0.53 g, 3.85 mmol), CuI (73 mg, 0.38 mmol), TEBA (0.32 g, 1.3 mmol), tri-o-tolylphosphine (0.23 g, 0.77 mmol), Pd(OAc)2 (86 mg, 0.38 mmol), triethylamine (2.14 mL, 15.38 mmol) and water (1.2 mL) in DMF (12 mL) is heated to 100° C. for 12 h. After cooling, the solution is diluted with EtOAc, and washed with 1 N HCl (100 mL), sat'd LiCl (50 mL) and water (100 mL), evaporated and chromatographed (2% MeOH/CH2Cl2, 0 to 0.05% acetic acid) to yield (S)-6-[(1-carboxy-2-(3-methylphenyl)-ethylamino]-phthalide, as a light brown foam.

reactant | 6-iodophthalide | 3.85 mmol, 1.0 g | IC1=CC=C2COC(=O)C2=C1 | C8H5IO2
reactant | (S)-3-methylphenylalanine | CC=1C=C(C[C@H](N)C(=O)O)C=CC1 | C10H13NO2
reactant | HCl | 3.85 mmol, 0.83 g | Cl | ClH
reactant | tri-o-tolylphosphine | 0.77 mmol, 0.23 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 15.38 mmol, 2.14 mL | C(C)N(CC)CC | C6H15N
catalyst | TEBA | 1.3 mmol, 0.32 g | CC[N+](CC)(CC)CC1=CC=CC=C1.[Cl-]
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | CuI | 0.38 mmol, 73 mg | [Cu]I
catalyst | Pd(OAc)2 | 0.38 mmol, 86 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | water | 1.2 mL | O | H2O
product | (1-carboxy-2-(3-methylphenyl)-ethylamino]-phthalide | C(=O)(O)C(CC1=CC(=CC=C1)C)NC1OC(=O)C2=CC=CC=C12 | C18H17NO4
